US06150352
Step D 2,2-difluoro-2-(1 -methylpiperidin-2-yl)ethanol
To a solution of 2-(difluoro-methoxycarbonylmethyl)piperidine-1-carboxylic acid tert-butyl ester (1.14 g in 30 mL dry diethyl ether) at 0° C. was added 580 mg lithium aluminum hydride and the mixture stirred at low temperature. After 15 minutes, the reaction was quenched by the sequential addition of 0.58 mL water, 0.58 mL 2N sodium hydroxide and 0.74 mL water. The mixture was stirred vigorously for 1 hour then filtered over diatomaceous earth. The filtrate was concentrated in vacuo and purified by flash chromatography on silica gel (hexane:ethyl acetate, 85:15) to give the title compound (450 mg).

reactant | lithium aluminum hydride | 580 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(difluoro-methoxycarbonylmethyl)piperidine-1-carboxylic acid tert-butyl ester | 30 mL, 1.14 g | C(C)(C)(C)OC(=O)N1C(CCCC1)C(C(=O)OC)(F)F | C13H21F2NO4
product | 2,2-difluoro-2-(1 -methylpiperidin-2-yl)ethanol | 450 mg | FC(CO)(C1N(CCCC1)C)F | C8H15F2NO
